US05053507
Then, 5 g (0.013 mole) of the obtained ethyl 2-(p-octyloxyphenyl)-4-hydroxypyrimidine-5-carboxylate was dissolved in 25 ml of phosphorus oxychloride, and the mixture was refluxed with heating for 3 hours. The excess phosphorus oxychloride was distilled under reduced pressure, and the residue was purified by silica gel chromatography (developing solvent: CHCl3) to give 4.9 g of ethyl 2-(p-octyloxyphenyl)-4-chloropyrimidine-5-carboxylate (yield: 91%).

reactant | ethyl 2-(p-octyloxyphenyl)-4-hydroxypyrimidine-5-carboxylate | 0.013 mole, 5 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=NC=C(C(=N1)O)C(=O)OCC | C21H28N2O4
reactant | phosphorus oxychloride | 25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 2-(p-octyloxyphenyl)-4-chloropyrimidine-5-carboxylate | 4.9 g, yield: 91% | C(CCCCCCC)OC1=CC=C(C=C1)C1=NC=C(C(=N1)Cl)C(=O)OCC | C21H27ClN2O3
